US08476269B2
Intermediate B: 3-Amino-5-trifluoromethyl-pyrazine-2-carboxylic acid ethyl ester
To a mixture of amino-carbamimidoyl-acetic acid ethyl ester (2 g, 9.22 mmol) and water (50 ml), a 20% aqueous solution of trifluoropyruvic aldehyde (2.32 g, 18.43 mmol) was added. To this mixture, sodium acetate (5.29 g, 64.52 mmol) was added (pH of the reaction mixture was pH5). The reaction mixture was left to stir at RT overnight. The resultant precipitate was filtered under vacuum purification by chromatography on silica eluting with iso-hexane: EtOAc (gradient of 0 to 10% EtOAc) afforded the title compound

reactant | amino-carbamimidoyl-acetic acid ethyl ester | 9.22 mmol, 2 g | C(C)OC(C(C(N)=N)N)=O | C5H11N3O2
reactant | trifluoropyruvic aldehyde | 18.43 mmol, 2.32 g | C(=O)C(=O)C(F)(F)F | C3HF3O2
reactant | sodium acetate | 64.52 mmol, 5.29 g | C(C)(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
product | 3-Amino-5-trifluoromethyl-pyrazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=C(N=C1N)C(F)(F)F | C8H8F3N3O2
